data/mechanism_extracts/Angew/10.1002_anie.201902315.json
{"doi": "10.1002_anie.201902315", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical [4+2] annulation-rearrangement-aromatization of styrenes to multi-substituted naphthalenes mediated by TBPA, forming polycyclic aromatics from simple styrene building blocks", "mechanism_family": ["mediator_anodic", "radical_cation", "direct_SET"], "electrochemical_role": "Anodic oxidation of TBPA (tris(4-bromophenyl)amine) to a stable radical-cation TBPA•+, which then oxidizes electron-rich styrene to its radical cation via SET", "key_intermediates": [{"name": "TBPA radical cation (mediator)", "smiles": null, "role": "reactive"}, {"name": "styrene radical cation (69)", "smiles": null, "role": "reactive"}, {"name": "radical cyclization adduct (70) - C-C bonded dimeric cation-radical", "smiles": null, "role": "transient"}, {"name": "cyclohexadienyl cation intermediate (71)", "smiles": null, "role": "transient"}, {"name": "deprotonated radical (72)", "smiles": null, "role": "transient"}, {"name": "dehydrodimer (68) - isolable homo-cycloadduct intermediate", "smiles": null, "role": "reactive"}, {"name": "carbon radical (73) from oxidation of 6", "smiles": null, "role": "transient"}, {"name": "secondary carbocation (74)", "smiles": null, "role": "transient"}, {"name": "rearranged tertiary carbocation (75) after para-anisole migration", "smiles": null, "role": "transient"}, {"name": "cathodic H2 evolution from HFIP/proton reduction", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes TBPA to TBPA•+, which performs SET on electron-rich styrene to give styrene radical cation 69; a second styrene attacks 69 (radical cyclization) to form 70, deprotonation/further oxidation yields dehydrodimer 68; TBPA•+ oxidizes 68 to radical 73 then cation 74, which undergoes 1,2-aryl (para-anisole) migration to tertiary cation 75, and oxidative aromatization delivers naphthalene 2. Protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "isolated dehydrodimer 68 (intermediate resubjection)", "smiles": null, "purpose": "intermediate_trap", "observation": "68 detected by GC during reaction, isolated in 50% yield; resubjecting 68 to electrolysis gave product 2 in 62% yield, confirming it as an on-cycle intermediate"}, {"name": "Cyclic voltammetry of 68 and of TBPA/1 mixture", "smiles": null, "purpose": "redox_probe", "observation": "Two anodic peaks for 68 at 1.45 V and 1.90 V (sequential 2e- losses); CV of TBPA + 68 indicates TBPA mediates oxidation of 68, paralleling TBPA/1 behavior"}], "evidence_types_used": ["cyclic_voltammetry", "isolation_of_intermediate", "stoichiometric_intermediate", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Para-anisole 1,2-migration is favored over methyl migration due to electron-rich aryl, generating the more stable tertiary carbocation 75 prior to aromatization. HFIP serves as proton source/solvent enabling cathodic H2 evolution. Mechanism is proposed without radical-trap experiments (no TEMPO/BHT reported on these pages) or DFT; key support comes from CV and isolation/resubjection of intermediate 68."}
